US08217028B2
To a solution of methyl (2Z)-3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]-2-propenoate (D63) (30 mg) in THF (5 mL) was added aqueous NaOH (2 M, 1 mL). The reaction was stirred at 60° C. for 4 h. The mixture was cooled to room temperature and acidified with aqueous HCl (2 M) to pH 4-5, partitioned between ethyl acetate (25 mL) and water (25 mL). The organic phase was washed with water (25 mL), dried over anhydrous sodium sulphate and evaporated to give the crude product, which was purified by Mass Directed Auto Prep to afford (2Z)-3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]-2-propenoic acid (E38) (25 mg). δH (DMSO-d6, 400 MHz): 1.36 (6H, d), 3.75 (3H, s), 4.89 (1H, m), 5.77 (1H, d), 7.34 (2H, m), 7.45 (1H, d), 7.52 (1H, dd), 8.07 (1H, dd), 8.14 (1H, dd), 8.21 (1H, d), 8.70 (1H, s), 12.02 (1H, br s). MS (ES): C23H20ClN3O4 requires 437; found 438.2 (M+H+).

reactant | methyl (2Z)-3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]-2-propenoate | 30 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)\C=C/C(=O)OC | C24H22ClN3O4
reactant | NaOH | 2 M, 1 mL | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2Z)-3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]-2-propenoic acid | 25 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)\C=C/C(=O)O | C23H20ClN3O4
